US05527819
Preparation of N-(3-acetylaminobenzyl)-3-phenylsulfonyl-5-chloroindole-2-carboxamide
A solution of N-(3-aminobenzyl) 3-phenylsulfonyl-5-chloroindole-2-carboxamide (Examplle 41) (176 mg, 0.4 mmol) in dry tetrahydrofuran (7 mL) containing acetic anhydride (0.05 mL, 0.5 mmol) was stirred at room temperature for 16 hours. The reaction was diluted with water and extracted with ethyl acetate. The organic layer was dried (Na2SO4), filtered through charcoal, and the solvents evaporated. The residue was triturated with methylene chloride and the solid collected by filtration to give the product, mp 249°-250° C.

reactant | N-(3-aminobenzyl) 3-phenylsulfonyl-5-chloroindole-2-carboxamide | 0.4 mmol, 176 mg | NC=1C=C(CNC(=O)C=2NC3=CC=C(C=C3C2S(=O)(=O)C2=CC=CC=C2)Cl)C=CC1 | C22H18ClN3O3S
reactant | acetic anhydride | 0.5 mmol, 0.05 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(3-acetylaminobenzyl)-3-phenylsulfonyl-5-chloroindole-2-carboxamide | C(C)(=O)NC=1C=C(CNC(=O)C=2NC3=CC=C(C=C3C2S(=O)(=O)C2=CC=CC=C2)Cl)C=CC1 | C24H20ClN3O4S
